### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Walks/Operations): `p.dropLast.support` lemmas

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean [hunk 1]
```diff
@@ -695,6 +695,16 @@ lemma concat_dropLast (p : G.Walk u v) (hp : G.Adj p.penultimate v) :
     u :: p.tail.support = p.support := by
   rw [← support_cons (p.adj_snd hp), cons_tail_eq _ hp]
 
+theorem support_dropLast_concat {p : G.Walk u v} (hp : ¬p.Nil) :
+    p.dropLast.support.concat v = p.support := by
+  nth_rw 3 [← p.concat_dropLast <| adj_penultimate hp]
+  rw [support_concat]
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean]: Small golf but maybe it's clearer in the original form.
```suggestion
  rw [← support_concat _ <| adj_penultimate hp, concat_dropLast]
```

**Review by vlad902 — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean [hunk 2]
```diff
@@ -695,6 +695,15 @@ lemma concat_dropLast (p : G.Walk u v) (hp : G.Adj p.penultimate v) :
     u :: p.tail.support = p.support := by
   rw [← support_cons (p.adj_snd hp), cons_tail_eq _ hp]
 
+theorem support_dropLast_concat {p : G.Walk u v} (hp : ¬p.Nil) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean:698]:
```suggestion
theorem concat_support_dropLast {p : G.Walk u v} (hp : ¬p.Nil) :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean:698]: actually here I think the earlier name was right but the statement was wrong. Core says that `List.concat` isn't meant to be used, and instead `_ ++ [_]` should be used instead (which is infix!). So we should change the statement here to `p.dropLast ++ [v] = p.support`.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
